Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Amoxicillin / 
clindamycin
 
Attending: ___.
 
Chief Complaint:
Concern for seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with history
notable for HTN, hypothyroidism, depression, right parotid
carcinoma s/p radiation c/b ulceration s/p skin graft, and
___ transferred from ___ after presenting with
confusion, with interval course complicated by a suspected
seizure.

Per OSH report, Ms. ___ was found wandering on the campus 
of
her ___ living facility earlier today, where she was
noted to be confused with multiple facial abrasions as well as a
bleeding forehead laceration; at time of initial evaluation, Ms.
___ was unable to recall how she had acquired her injuries
or why she was wandering around the facility. Ms. ___ was
then taken to ___, where she was noted on arrival to 
have
a 20 second episode of speech arrest and unresponsiveness,
followed by what was described as a "brief postictal state" of
unclear duration. She underwent unrevealing ___ and CT neck,
and was transferred to ___ for further evaluation. Ms. 
___
herself currently has no recollection of the above events, last
recalling having breakfast with her husband this morning around
___ without concerning symptoms; she currently notes 
only
a bifrontal headache centered over the site of her forehead
contusion.

Notably, on review of records, Ms. ___ has had a number of
prior amnestic episodes, beginning with an episode in ___ in
___ where she had an episode of memory lapse without loss of
consciousness in the setting of a gastrointestinal illness,
though with unclear subsequent evaluation. She later had an
unspecified episode in ___ ___s further episodes over the
past ___ years, including one in ___ of this year requiring
hospitalization. She was evaluated following this episode by Dr.
___ noted that these episodes are characterized by
brief episodes of "loss of time" that have been described by
bystanders as confusion with speech disturbance for ca. one
minute, followed by an apparently brief post-ictal period. No
convulsive events have been noted. Ms. ___ underwent a
limited non-contrast MRI for these findings at ___ on
___ without concerning findings, and underwent ambulatory 
EEG
which demonstrated an episode of "onset of higher amplitude
semi-rhythmic delta slowing over the right frontotemporal leads
which then did evolve with slower frequencies and lasting 10
seconds in duration" during a push-button activation for
"dizziness". Ms. ___ recalls that her sensation at that 
time
vaguely recapitulated her symptoms associated with her 
previously
noted amnestic episodes. As a result of these findings, Ms.
___ was scheduled for inpatient LTM in ___.

On review of systems, aside from the above, Ms. ___ denies
recent dizziness, vertigo, speech disturbance, vision change,
diplopia, hearing change, dysarthria, dysphagia, focal weakness,
bowel or bladder incontinence, gait disturbance, fevers, chills,
nausea, vomiting, dyspnea, chest discomfort, abdominal pain,
changes in bowel or bladder habits, myalgias, or arthralgias. 
She
does note some "tingling" paresthesiae in her lower legs earlier
today that have since resolved.
 
Past Medical History:
HTN
Hypothyroidism
Depression
Right parotid carcinoma s/p radiation c/b ulceration s/p skin
graft
Morphea 
 
Social History:
___
Family History:
No family history of seizures or other neurological disorders.
 
Physical Exam:
Admission PHYSICAL EXAMINATION:
 Vitals: T: 97.7  P: 80  R: 16  BP: 118/52  SpO2: 96% RA
 General: Awake, cooperative, in NAD.
 HEENT: Multiple facial abrasions, skin graft over right face 
and
neck, MMM.
 Neck: Supple.
 Pulmonary: No tachypnea or increased WOB.
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with
reasonable accuracy compared to prior records, save for amnestic
period today. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact comprehension and
naming of both high- and low-frequency objects. Able to read
without difficulty. Able to follow midline and appendicular
commands. No apparent hemineglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL 5 to 3 ___ (postsurgical ___. EOMI
without nystagmus, esotropia OD. VFF to confrontation. 
 V: Facial sensation intact to light touch, though somewhat
diminished over graft.
 VII: L NLFF with symmetric activation.
 VIII: Hearing intact to conversation.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline.

-Motor: No pronator drift bilaterally.
   Delt Bic Tri WrE FFl FE IP Quad ___
 L  5    ___   ___   5    ___ 
 R  5    ___   ___   5    ___ 

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Positive Romberg.

-DTRs: +crossed adductors bilaterally
   Bi Tri ___ Pat Ach
 L  2  2    2    3   1
 R  2  2    2    3   1
 Plantar response was extensor bilaterally.

-Coordination: No intention tremor or dysmetria on FNF or HKS
bilaterally.

-Gait: Slightly widened base, otherwise steady.

Discharge Physical Exam:
24 HR Data
    Temp: 98.5 (Tm 98.5), BP: 117/67 (94-131/59-72), HR: 76
(67-86), RR: 20 (___), O2 sat: 97% (95-97), O2 delivery: Ra

General: elderly woman sitting comfortably in bed
HEENT: facial abrasions, neck supple, mmm
Pulmonary: breathing comfortably on room air
Cardiac: warm, well-perfused
Abdomen: soft, ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted. Facial abrasions
Neurologic: 
-MS: awake, alert, oriented to self, ___, date. Naming is
intact. Language is fluent. No paraphasic errors. Follows 
midline
and appendicular commands. 
-CN: PERRL 5-3mm b/l, EOMI no nystagmus, VFF. No facial
asymmetry. Tongue midline with good excursions. 
-Motor: no pronator drift. No tremor or asterixis. 
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [___] [Gas]
 L   5      5     5     5     5    5     5      5    5     5
 R   5      5     5     5     5    5     5      5    5     5
-Sensory: intact to light touch throughout
-Reflexes: deferred
-Coordination: intact FNF. 
-Gait: deferred
 
Pertinent Results:
___ 06:48AM BLOOD WBC-8.5 RBC-3.78* Hgb-12.5 Hct-37.1 
MCV-98 MCH-33.1* MCHC-33.7 RDW-13.7 RDWSD-49.2* Plt ___
___ 03:00AM BLOOD WBC-9.7 RBC-3.74* Hgb-12.3 Hct-36.1 
MCV-97 MCH-32.9* MCHC-34.1 RDW-13.4 RDWSD-47.0* Plt ___
___ 03:00AM BLOOD Neuts-71.7* Lymphs-16.1* Monos-10.8 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-6.96* AbsLymp-1.56 
AbsMono-1.05* AbsEos-0.08 AbsBaso-0.02
___ 06:48AM BLOOD Glucose-107* UreaN-12 Creat-0.8 Na-147 
K-4.2 Cl-106 HCO3-30 AnGap-11
___ 06:48AM BLOOD ALT-48* AST-42* AlkPhos-57 TotBili-0.7
___ 06:48AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.1

CXR ___
FINDINGS: 
 
No focal consolidation is identified.  There is no pulmonary 
edema,
pneumothorax, or pleural effusion.  The cardiomediastinal 
silhouette and hilar contours are unchanged.  Surgical clips are 
seen projecting over the right lower neck.
IMPRESSION: 
No acute cardiopulmonary process.

MRI Brain w/wo cont ___
FINDINGS:  
Evaluation is suboptimal due to motion artifact.  Within these 
confines:
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.   The ventricles and sulci are 
normal in caliber and configuration.  Patchy T2 hyperintensities 
are seen in the bilateral pons, likely secondary to chronic 
microvascular angiopathy.
 
IMPRESSION:
1. Chronic microvascular angiopathy changes within the pons.
2. No acute intracranial abnormality.
 
Brief Hospital Course:
Dear ___, 

___ is a ___ right-handed woman with history
notable for HTN, hypothyroidism, depression, right parotid
carcinoma s/p radiation c/b ulceration s/p skin graft, and
___ transferred from ___ after presenting with
confusion, with interval course complicated by a suspected
seizure. She was found at her assisted living facility with 
facial abrasions and confusion. These unexplained head and 
facial injuries with subsequent confusion in the setting of 
several episodes of stereotyped amnesia concerning for 
unwitnessed convulsive (or, less likely, atonic) seizure. 

#Seizure Disorder:
- EEG showed discharges from the R temporal suggestive of 
temporal lobe epilepsy. 
- MRI brain w/wo cont with chronic microangiopathy, no acute 
process or seizure focus
- Keppra 500 mg BID started and tolerated well without issue

#Hypertension
Continued Lisinopril

#Hypothyroidism
-continued levothyroxine 88 mcg daily

Transitional Issues: 
[]f/u with PCP ___ ___ weeks
[]f/u with neurology call Dr. ___ office on ___ to 
schedule an appointment for ___ weeks away, call ___
 
Medications on Admission:
Medications - Prescription
CLOBETASOL - clobetasol 0.05 % topical ointment. BID twice a day
two weeks to back spots and around umbilicus than weekends as
needed
DULOXETINE [CYMBALTA] - Cymbalta 60 mg capsule,delayed release.
One capsule,delayed ___ by mouth daily
FOLIC ACID - folic acid 1 mg tablet. 1 tablet(s) by mouth daily 
-
(Prescribed by Other Provider)
LEVOTHYROXINE - levothyroxine 88 mcg tablet. tablet(s) by mouth 
-  (Prescribed by Other Provider: Dr ___
LISINOPRIL - lisinopril 2.5 mg tablet. TAKE 1 TABLET BY MOUTH
EVERY DAY
METHOTREXATE SODIUM - methotrexate sodium 2.5 mg tablet. 10
tablet(s) by mouth once a week in the evening -  (Prescribed by
Other Provider)
MIRTAZAPINE - mirtazapine 15 mg tablet. One tablet(s) by mouth 
at
night
MUPIROCIN - mupirocin 2 % topical ointment. Apply to open sores
twice a day
TRIAMCINOLONE ACETONIDE - triamcinolone acetonide 0.1 % topical
ointment. apply twice a day as needed for itchy rash
 
Medications - OTC
ASPIRIN [ADULT LOW DOSE ASPIRIN] - Adult Low Dose Aspirin 81 mg
tablet,delayed release. 1 tablet(s) by mouth once a day - 
(Prescribed by Other Provider; ___)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
2,000
unit capsule. 1 capsule(s) by mouth once a day -  (Prescribed by
Other Provider; ___)
MULTIVITAMIN WITH MINERALS [HAIR,SKIN AND NAILS] - Hair,Skin and
Nails tablet. 1 tablet(s) by mouth once a day -  (___)
 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY  
3.  DULoxetine 60 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Levothyroxine Sodium 88 mcg PO DAILY  
6.  Lisinopril 2.5 mg PO DAILY  
7.  Methotrexate 25 mg PO 1X/WEEK (FR)  
8.  Mirtazapine 15 mg PO QHS  
9.  Mycophenolate Mofetil 1000 mg PO BID  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive 

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the neurology epilepsy service after you 
were found to be confused and with bruises on your face 
concerning for seizures. You were hooked up to an EEG which 
measures your brain waves which evaluates for excitability and 
seizures. You were found to have activity coming from the R side 
of your brain concerning for seizure activity. You were placed 
on a medication to help prevent seizures in the future called 
LEVETIRACETAM (also called keppra) to be taken twice daily. 

You will follow-up with neurology to help manage your seizures. 
Please call ___ to schedule your appointment with Dr. 
___ for management of your seizures. 

It was a pleasure taking care of you!

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___